US07138425B2
c) 2-(3-Nitro-6-propylaminophenyl)-5-methoxybenzoxazole
Prepared by the method of Example 54a), from 2-(3-nitro-6-fluorophenyl)-5-methoxybenzoxazole (674 mg, 2.0 mmol) and propylamine (492 μL, 6.0 mmol) the subtitle compound was obtained. The product was used directly in the next step without purification.

reactant | 2-(3-nitro-6-fluorophenyl)-5-methoxybenzoxazole | 2.0 mmol, 674 mg | [N+](=O)([O-])C=1C=C(C(=CC1)F)C=1OC2=C(N1)C=C(C=C2)OC | C14H9FN2O4
reactant | propylamine | 6.0 mmol, 492 μL | C(CC)N | C3H9N
product | 2-(3-Nitro-6-propylaminophenyl)-5-methoxybenzoxazole | [N+](=O)([O-])C=1C=C(C(=CC1)NCCC)C=1OC2=C(N1)C=C(C=C2)OC | C17H17N3O4
